US08048909B2
Ethyl 4-methyl-1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carboxylate
Ethyl 5-bromo-4-methyl-1-[(4-methylphenyl)sulfonyl]-1H-pyrrole-3-carboxylate (1.0 g), phenylboronic acid (473 mg), sodium carbonate (823 mg) and tetrakis(triphenylphosphine)palladium (299 mg) were suspended in a mixture of 1,2-dimethoxyethane (10 mL) and distilled water (10 mL), and the mixture was refluxed under a nitrogen atmosphere for 16 hr. The reaction mixture was filtrated, water was added to the filtrate and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→1:1) to give the title compound as a pale-brown oil (yield 430 mg, 42%).

reactant | Ethyl 5-bromo-4-methyl-1-[(4-methylphenyl)sulfonyl]-1H-pyrrole-3-carboxylate | 1.0 g | BrC1=C(C(=CN1S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC)C | C15H16BrNO4S
reactant | phenylboronic acid | 473 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 823 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 299 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 4-methyl-1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carboxylate | yield 430 mg, 42% | CC=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC | C21H21NO4S
